US06441008B1
2-(Pyridin4-yl-amino)-butan-1-ol
A stirred solution of 2-(tert-butoxycarbonyl-pyridin-4-yl-amino)butyric acid ethyl ester (0.33 g) in ethanol (5 ml) was treated with sodium borohydride (0.12 g) and the stirring was continued for 18 h. Water (1 ml) was added and the mixture was concentrated under reduced pressure. The residue was absorbed on to silica and the resulting powder was loaded on to a flash chromatography column which was eluted with methanol:chloroform:aqueous ammonia (10:89:1). The title compound (0.168 g) was obtained as an oil after evaporation of the product containing fractions.

reactant | 2-(tert-butoxycarbonyl-pyridin-4-yl-amino)butyric acid ethyl ester | 0.33 g | C(C)OC(C(CC)N(C1=CC=NC=C1)C(=O)OC(C)(C)C)=O | C16H24N2O4
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
reactant | Water | 1 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(Pyridin4-yl-amino)-butan-1-ol | 0.168 g | N1=CC=C(C=C1)NC(CO)CC | C9H14N2O
